US07452893B2
A solution of oxalyl chloride (0.054 mL, 0.623 mmol) in dichloromethane (10 mL) was cooled to −78° C. Dimethylsulfoxide (0.088 mL, 1.36 mmol) was added dropwise and the reaction mixture was stirred for 5 min. (−) tert-Butyl 3-fluoro-4-(2-hydroxy-2-phenylethoxy)cyclohexylcarbamate (200 mg, 0.567 mmol) was then added as a solution in dichloromethane (1 mL). After 5 min of stirring, diisopropylethylamine (0.494 mL, 2.84 mmol) was added in one portion, the reaction mixture was warmed to room temperature and stirred for 2 h. The reaction mixture was then poured saturated sodium bicarbonate, the layers were separated and the aqueous extracted (4×) with dichloromethane. The combined organic layers were dried with anhydrous magnesium sulfate, filtered and concentrated. Purification by flash column chromatography (hexane: ethyl acetate) gave tert-Butyl 3-fluoro-4-(2-oxo-2-phenylethoxy)cyclohexylcarbamate (175 mg, 88% yield) as a white solid.

reactant | oxalyl chloride | 0.623 mmol, 0.054 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethylsulfoxide | 1.36 mmol, 0.088 mL | CS(=O)C | C2H6OS
reactant | (−) tert-Butyl 3-fluoro-4-(2-hydroxy-2-phenylethoxy)cyclohexylcarbamate | 0.567 mmol, 200 mg | FC1CC(CCC1OCC(C1=CC=CC=C1)O)NC(OC(C)(C)C)=O | C19H28FNO4
reactant | diisopropylethylamine | 2.84 mmol, 0.494 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | tert-Butyl 3-fluoro-4-(2-oxo-2-phenylethoxy)cyclohexylcarbamate | 175 mg, 88% yield | FC1CC(CCC1OCC(C1=CC=CC=C1)=O)NC(OC(C)(C)C)=O | C19H26FNO4
